US06211199B1
34.9 Synthesis of 1-(3,4,5-trimethoxybenzyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(phenylmethyl)-5-oxopyrrolidine
Prepare by the method of Example 1.6 using 1-(3,4,5-trimethoxybenzyl)-3-(2-methanesulfonyloxyethyl)-3-(phenylmethyl)-5-oxopyrrolidine (0.05 g, 0.10 mmol) and (1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine (0.03 g, 0.10 mmol). Purify by chromatography on silica gel eluting with 2% triethylamine/5% methanol/ethyl acetate to give the title compound: Rf=0.20 (silica gel, 2% triethylamine/5% methanol/ethyl acetate).

reactant | 1-(3,4,5-trimethoxybenzyl)-3-(2-methanesulfonyloxyethyl)-3-(phenylmethyl)-5-oxopyrrolidine | 0.10 mmol, 0.05 g | COC=1C=C(CN2CC(CC2=O)(CC2=CC=CC=C2)CCOS(=O)(=O)C)C=C(C1OC)OC | C24H31NO7S
reactant | (1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine | 0.10 mmol, 0.03 g | C(C)OCCN1C(=NC2=C1C=CC=C2)NC2CCNCC2 | C16H24N4O
product | 1-(3,4,5-trimethoxybenzyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(phenylmethyl)-5-oxopyrrolidine | COC=1C=C(CN2CC(CC2=O)(CC2=CC=CC=C2)CCN2CCC(CC2)NC2=NC3=C(N2CCOCC)C=CC=C3)C=C(C1OC)OC | C39H51N5O5
